* Schematics Netlist *



V_V1         $N_0001 0 DC 0V AC 340V 
V_V2         0 $N_0002 DC 0V AC 340V 
C_C1         $N_0001 $N_0003  0.1u  
R_R5         0 $N_0003  50  
R_R6         $N_0004 0  50  
R_R4         0 $N_0005  50  
R_R2         $N_0004 $N_0003  75  
R_R1         $N_0005 0  50  
C_C2         $N_0002 $N_0005  0.1u  
