* Schematics Netlist *



R_R17         $N_0002 $N_0001  75  
C_C5         $N_0003 $N_0001  0.1u  
R_R12         $N_0005 $N_0004  75  
R_R13         0 $N_0005  33  
R_R15         0 $N_0004  33  
R_R14         $N_0001 0  33  
R_R16         $N_0002 0  33  
C_C4         $N_0006 $N_0005  0.1u  
V_V11         0 $N_0003 DC 0V AC 340V 
V_V10         $N_0006 0 DC 0V AC 340V 
