* Schematics Netlist *



R_R17         $N_0002 $N_0001  75  
C_C4         0 $N_0003  0.1u  
C_C5         0 $N_0001  0.1u  
I_I2         0 $N_0004 DC 1A  
R_R12         $N_0003 $N_0004  75  
I_I1         0 $N_0002 DC 1A  
R_R13         0 $N_0003  33  
R_R15         0 $N_0004  33  
R_R14         $N_0001 0  33  
R_R16         $N_0002 0  33  
