* Schematics Netlist *



R_R12         $N_0002 $N_0001  75  
R_R13         0 $N_0002  33  
R_R15         0 $N_0001  33  
C_C4         $N_0003 $N_0002  0.1u  
R_R18         $N_0004 $N_0003  50  
V_V4         $N_0004 0 DC 0V AC 10V 
