* Schematics Netlist *



C_C4         $N_0001 $N_0002  0.1u  
R_R12         $N_0002 $N_0003  75  
R_R13         0 $N_0002  33  
R_R15         0 $N_0003  33  
V_V4         $N_0001 0 DC 0V AC 340V 
