* Schematics Netlist *



R_R17         $N_0002 $N_0001  75  
C_C5         $N_0003 $N_0001  0.1u  
R_R12         $N_0005 $N_0004  75  
C_C4         $N_0006 $N_0005  0.1u  
V_V10         $N_0006 0 DC 0V AC 10V 
V_V11         0 $N_0003 DC 0V AC 10V 
R_R14         $N_0001 $N_0007  30  
R_R13         $N_0007 $N_0005  30  
R_R16         $N_0002 $N_0008  30  
R_R15         $N_0008 $N_0004  30  
