* Schematics Netlist *



V_V4         $N_0001 0 DC 0V AC 10V 
V_V6         0 $N_0002 DC 0V AC 10V 
R_R1         0 $N_0003  50  
R_R5         $N_0004 0  50  
C_C3         $N_0002 $N_0004  .1uF  
C_C1         $N_0005 $N_0003  .1uF  
R_R6         $N_0001 $N_0005  50  
