* Schematics Netlist *



R_R1         0 $N_0001  50  
R_R5         $N_0002 0  50  
C_C3         0 $N_0002  .1uF  
C_C1         $N_0003 $N_0001  .1uF  
V_V4         $N_0003 0 DC 0V AC 10V 
