* Schematics Netlist *



V_V4         $N_0001 0 DC 0V AC 10V 
C_C1         $N_0002 $N_0003  .1uF  
R_R7         $N_0001 $N_0002  50  
R_R10         $N_0003 $N_0004  68  
C_C3         0 $N_0005  .1uF  
R_R1         $N_0006 $N_0003  50  
R_R8         0 $N_0004  37.5  
R_R5         $N_0005 $N_0006  50  
R_R12         $N_0005 0  37.5  
