* Schematics Netlist *



C_C1         0 $N_0001  .1uF  
R_R1         0 $N_0001  200  
R_R16         $N_0002 0  200  
R_R17         $N_0001 $N_0003  50  
R_R20         $N_0004 $N_0002  50  
R_R18         0 $N_0003  50  
C_C5         0 $N_0002  .1uF  
R_R19         $N_0004 0  50  
I_I4         0 $N_0004 DC 0A AC 1A 
I_I3         $N_0003 0 DC 0A AC 1A 
