* Schematics Netlist *



C_C1         $N_0001 $N_0002  .1uF  
V_V4         $N_0001 0 DC 0V AC 10V 
V_V7         0 $N_0003 DC 0V AC 10V 
R_R1         0 $N_0002  200  
R_R16         $N_0004 0  200  
C_C5         $N_0003 $N_0004  .1uF  
R_R17         $N_0002 $N_0005  50  
R_R20         $N_0006 $N_0004  50  
R_R19         $N_0006 0  50  
R_R18         0 $N_0005  50  
