* Schematics Netlist *



C_C1         $N_0001 $N_0002  .1uF  
C_C2         $N_0003 0  .1uF  
R_R1         0 $N_0002  100  
V_V1         $N_0001 0 DC 0V AC 115V 
V_V3         0 $N_0003 DC 0V AC 115V 
