* Schematics Netlist *



C_C1         0 $N_0001  .1uF  
R_R1         0 $N_0001  100  
C_C2         0 0  .1uF  
I_I2         0 $N_0002 DC 1A  
R_R2         $N_0002 $N_0001  68  
R_R3         0 $N_0002  71  
