* Schematics Netlist *



C_C1         $N_0001 $N_0002  .1uF  
R_R1         0 $N_0002  100  
C_C2         $N_0003 0  .1uF  
V_V4         $N_0001 0 DC 0V AC 115V 
V_V5         0 $N_0003 DC 0V AC 115V 
R_R2         $N_0004 $N_0002  68  
R_R3         0 $N_0004  71  
