* Schematics Netlist *



V_V1         $N_0001 0 DC 0V AC 115V 
V_V2         0 $N_0002 DC 0V AC 115V 
C_C1         $N_0001 $N_0003  .1u  
C_C2         $N_0002 $N_0004  .1u  
R_R2         $N_0004 $N_0003  100  
R_R1         $N_0003 $N_0005  68  
R_R3         $N_0004 $N_0005  71  
C_C3         $N_0002 $N_0001  20n  
C_C4         $N_0005 0  20n  
C_C5         $N_0004 0  20n  
