* Schematics Netlist *



C_C1         $N_0001 $N_0002  .1u  
C_C2         0 $N_0003  .1u  
R_R5         0 $N_0002  29.075  
R_R4         $N_0003 0  29.075  
C_C3         0 $N_0001  20p  
C_C4         $N_0002 0  20p  
C_C5         $N_0003 0  20p  
V_V3         $N_0001 0 DC 0V AC 220V 
