* Schematics Netlist *



R_R5         0 $N_0001  29.075  
C_C3         0 $N_0002  42p  
C_C4         $N_0001 0  42p  
C_C5         $N_0003 0  42p  
R_R4         $N_0003 0  29.075  
V_V1         $N_0004 0 DC 0V AC 10V 
R_R6         $N_0004 $N_0002  50  
C_C1         $N_0002 $N_0001  .1u  
C_C2         0 $N_0003  .1u  
