* Schematics Netlist *



C_C1         $N_0001 $N_0002  .1u  
R_R2         $N_0001 $N_0003  50  
V_V1         $N_0003 0 DC 0V AC 5V 
V_V2         0 $N_0004 DC 0V AC 5V 
C_C2         $N_0004 $N_0005  .1u  
R_R1         0 $N_0002  50  
R_R6         $N_0005 0  50  
R_R8         0 $N_0006  37.5  
R_R9         $N_0007 0  37.5  
R_R7         $N_0002 $N_0006  50  
R_R10         $N_0005 $N_0007  50  
