* Schematics Netlist *



V_V2         0 $N_0001 DC 0V AC 5V 
R_R1         0 $N_0002  50  
R_R8         0 $N_0003  37.5  
R_R9         $N_0004 0  37.5  
R_R7         $N_0002 $N_0003  50  
V_V1         $N_0002 0 DC 0V AC 5V 
R_R6         $N_0001 0  50  
R_R10         $N_0001 $N_0004  50  
