* Schematics Netlist *



C_C1         $N_0001 $N_0002  .1u  
V_V1         $N_0001 0 DC 0V AC 10 
R_R1         0 $N_0002  300  
R_R7         $N_0002 $N_0003  50  
R_R8         0 $N_0003  27  
