* Schematics Netlist *



C_C1         0 $N_0001  .1u  
R_R1         0 $N_0001  300  
I_I1         0 $N_0002 DC 1A  
R_R8         0 $N_0002  27  
R_R7         $N_0001 $N_0002  50  
