* Schematics Netlist *



C_C1         $N_0001 $N_0002  .1u  
R_R4         $N_0002 $N_0003  75  
R_R7         $N_0005 $N_0004  75  
C_C3         $N_0006 $N_0005  .1u  
V_V2         $N_0001 0 DC 0V AC 10 
V_V3         0 $N_0006 DC 0V AC 10 
R_R6         $N_0005 0  300  
R_R8         $N_0004 0  58  
R_R5         0 $N_0003  58  
R_R1         0 $N_0002  300  
