* Schematics Netlist *



C_C1         $N_0001 $N_0002  .1u  
V_V2         $N_0001 0 DC 0V AC 10 
R_R5         0 $N_0003  58  
R_R1         0 $N_0002  300  
R_R4         $N_0002 $N_0003  75  
