* Schematics Netlist *



C_C1         $N_0001 $N_0002  .1u  
V_V2         $N_0001 0 DC 0V AC 10 
R_R1         0 $N_0002  300  
C_C4         $N_0002 $N_0003  .1u  
R_R9         0 $N_0003  300  
C_C5         $N_0003 $N_0004  .1u  
R_R10         0 $N_0004  300  
C_C6         $N_0004 $N_0005  .1u  
R_R11         0 $N_0005  300  
