* Schematics Netlist *



V_V1         $N_0001 0 DC 0V AC 10V 
C_C1         $N_0001 $N_0002  0.1uf  
R_R2         $N_0002 $N_0003  50  
R_R1         0 $N_0002  100  
R_R3         0 $N_0003  100  
